US07932272B2
5-Oxo-2,5-dihydro-isoxazole-4-carboxylic acid ethyl ester
2-Ethoxymethylene-malonic acid diethyl ester (5.00 g, 23.1 mmol), hydroxylamine hydrochloride (4.01 g, 57.8 mmol) and triethylamine (8.06 mL, 57.8 mmol) were dissolved in ethanol (100 mL), the solution was stirred at room temperature for 17 hours, then, the solution was stirred for 4.5 hours under reflux. The reaction solution was cooled to room temperature, water was added, and 1N hydrochloric acid was added until a salt precipitated. The precipitated salt was collected by filtration, and a hydrochloride salt of the title compound (2.39 g, 15.2 mmol, 66%) was obtained as a white solid.

reactant | 2-Ethoxymethylene-malonic acid diethyl ester | 23.1 mmol, 5.00 g | C(C)OC(C(C(=O)OCC)=COCC)=O | C10H16O5
reactant | hydroxylamine hydrochloride | 57.8 mmol, 4.01 g | Cl.NO
reactant | triethylamine | 57.8 mmol, 8.06 mL | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | ethanol | 100 mL | C(C)O | C2H6O
solvent | water | O | H2O
product | 5-Oxo-2,5-dihydro-isoxazole-4-carboxylic acid ethyl ester | 15.2 mmol, 2.39 g, 66% | C(C)OC(=O)C1=CNOC1=O | C6H7NO4
